US07399778B2
A. 2-Methyl-1-[1-(4-methylphenyl)-1H-pyrazol-5-yl]propan-1-ol
This compound was prepared from 1-(4-methylphenyl)-1H-pyrazole (Tetrahedron Lett. 39(19): 2941 (1998)) and isobutyraldehyde using the method described in example 10B and isolated as a clear oil in 54% yield.

reactant | 1-(4-methylphenyl)-1H-pyrazole | CC1=CC=C(C=C1)N1N=CC=C1 | C10H10N2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-Methyl-1-[1-(4-methylphenyl)-1H-pyrazol-5-yl]propan-1-ol | 54% yield | CC(C(O)C1=CC=NN1C1=CC=C(C=C1)C)C | C14H18N2O
